** sch_path: /home/andersonhsieh/repos/projects/playground/diff_inv_tb.sch
**.subckt diff_inv_tb
x1 vin_n vin_p vout_n vout_p VDD GND diff_inv
V1 VDD GND 1.2
C1 vout_p GND 1f m=1
C2 vout_n GND 1f m=1
V2 net1 GND 0.6
V5 vin GND PULSE(0 1.2 1n 10p 10p 1n 2020p)
E1 net1 vin_n VOL=' 0.5*v(vin) '
E2 vin_p net1 VOL=' 0.5*v(vin) '
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.param temp=127
.control
save all

tran 5p 2020p
write diff_inv_tran.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  diff_inv.sym # of pins=6
** sym_path: /home/andersonhsieh/repos/projects/playground/diff_inv.sym
** sch_path: /home/andersonhsieh/repos/projects/playground/diff_inv.sch
.subckt diff_inv vin_n vin_p vout_n vout_p VDD GND
*.opin vout_p
*.iopin VDD
*.iopin GND
*.opin vout_n
*.ipin vin_p
*.ipin vin_n
XM1 vout_p vin_n net1 net1 sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
XM2 vout_n vin_p net1 net1 sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1
R1 VDD vout_p 1k m=1
R2 VDD vout_n 1k m=1
I0 net1 GND 1m
.ends

.GLOBAL GND
.end
