** sch_path: /home/andersonhsieh/repos/projects/the_ee_lore/20260719_tunnable_ring_oscillator/ro3_tb.sch
**.subckt ro3_tb
x1 out VDD GND ro3
V1 VDD GND {Vtune}
C1 out GND 1f m=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.param temp=127
.param Vtune = 0
.control

let sweep_start = 0.1
let sweep_stop = 1.2
let sweep_step = 0.1
let sweep_value = sweep_start

while sweep_value <= sweep_stop
	alterparam Vtune = $&sweep_value
	reset

	save v(out)
	tran 5p 20n

	linearize v(out)
	set specwindow=blackman
	fft v(out)
	write ro3_tran_fft_{$&sweep_value}.raw v(out)

	let sweep_value = sweep_value + sweep_step
end
.endc


**** end user architecture code
**.ends

* expanding   symbol:  ro3.sym # of pins=3
** sym_path: /home/andersonhsieh/repos/projects/the_ee_lore/20260719_tunnable_ring_oscillator/ro3.sym
** sch_path: /home/andersonhsieh/repos/projects/the_ee_lore/20260719_tunnable_ring_oscillator/ro3.sch
.subckt ro3 out VDD GND
*.opin out
*.iopin VDD
*.iopin GND
XM1 net1 net2 GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 net1 net2 VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM3 net3 net1 GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM4 net3 net1 VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM5 net2 net3 GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM6 net2 net3 VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
XM7 out net2 GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM8 out net2 VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
